2125-09-12 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events: CT surgery came by to see patient. RN noticed that pt
   orthostatic (HR inc 10 points, SBP down 15 points)
 gave 500 cc bolus
   NS. Patietn responded appropriately, remained asymptomatic and
   maintained appropriate mentation.
   This AM patient has no complaints. Denies chest pain, SOB,
   palpitations, dizziness.
   Allergies:
   Plaquenil (Oral) (Hydroxychloroquine Sulfate)
   Rash;
   Ibuprofen
   Seizures;
   Last dose of Antibiotics:
   Vancomycin - [**2125-9-11**] 09:05 PM
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-12**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 81 (79 - 95) bpm
   BP: 109/56(70) {92/29(52) - 121/69(78)} mmHg
   RR: 17 (17 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,238 mL
                                                                    365 mL
   PO:
                                                                    480 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    758 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                    350 mL
   Urine:
                                                                    350 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    888 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///20/
   Physical Examination
   PHYSICAL EXAMINATION:
   GENERAL: NAD. Oriented x3. Pleasant Caucasian female.  Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 6-7cm.
   CARDIAC: Normal S1, S2. No m/r/g. No S3 or S4.
   LUNGS: No chest wall deformities. Resp were unlabored, no accessory
   muscle use. CTAB, No appreciable wheezes or rhonchi. No bronchial
   breath sounds. No egophany, no tactile fremmitus.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   .
   Labs / Radiology
   233 K/uL
   10.3 g/dL
   171 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.7 mEq/L
   21 mg/dL
   106 mEq/L
   137 mEq/L
   30.0 %
   10.7 K/uL
        [image002.jpg]
                             [**2125-9-11**]  05:31 PM
                             [**2125-9-11**]  11:22 PM
                             [**2125-9-12**]  05:47 AM
   WBC
   12.8
   10.7
   Hct
   31.6
   30.0
   Plt
   237
   233
   Cr
   1.0
   TropT
   1.42
   1.93
   Glucose
   171
   Other labs: PT / PTT / INR:16.0/97.6/1.4, CK / CKMB /
   Troponin-T:949/37/1.93, ALT / AST:41/126, Alk Phos / T Bili:118/0.6,
   Differential-Neuts:87.6 %, Lymph:8.8 %, Mono:3.4 %, Eos:0.1 %,
   Albumin:3.8 g/dL, Ca++:10.8 mg/dL, Mg++:3.0 mg/dL, PO4:3.6 mg/dL
   Blood culture [**2125-9-11**]
 pending
   Urine/sputum culture
 ordered
   CXR AP [**9-12**]
 scheduled
   Echo [**9-12**]
 ordered
   Assessment and Plan
 66 y/o female with CAD s/p MI in [**2108**], now with 3VD on cardiac
   catheterization ([**2125-9-3**]), awaiting 5v CABG on [**2125-9-26**], who is
   tranferred from OSH with NSTEMI and SIRS/Sepsis from presumed PNA with
   orthostatic changes noted o/n.
   .
   # CORONARIES: Pt with known 3VD on [**2125-9-3**] cardiac catheterization (90%
   mid vessel RCA stenosis, 80% ostial LAD stenosis, 80% mid LCX
   stenosis). ECG with TWI V1-V4. CEs +, and continuing to rise in setting
   of fever, tachycardia, ? infiltrate. Pt was scheduled for elective CABG
   on [**9-26**]. At OSH, was loaded with 600 mg plavix.
   - Increased ASA to 325mg, continue Beta-Blocker, Statin, Isosorbide
   Dinitrate
   - Holding Plavix given potential CABG
   - CT [**Doctor First Name 213**] c/s
d yesterday, and they requested a carotid US and vein
   mapping, f/u recs today
   - Cont heparin gtt for 24 hours and will stop if pain free
   - d/w with team regarding potential cath
   - Hold nitro patch, institute nitro drip if necessary
   .
   # PUMP: ETT-MIBI ([**2125-8-15**]) showing EF > 60%. During the test, patient
   exercised for 4 minutes 59 seconds to a peak HR of 123 BPM. DOE with
   ECG showing 1mm of horizontal ST segment depression in leads II, III,
   AVF and V4-V6. Imaging revealed apical hypokinesis, evidence of a
   reversible anteroseptal and an anteroapical perfusion abnormality.
   - Cont home labetolol, isosorbide dinitrate
   .
   # RHYTHM: Per report was initially sinus tachycardic at OSH,
   potentially [**2-26**] to fever SIRS/sepsis. Currently NSR.
   - Tele while in house.
   .
   # Fever, Leukocytosis: Pt with Tm 102.8 at OSH, afebrile overnight. WBC
   down to 10.7 this AM. Differential includes PNA (HCAP vs CAP), SLE
   flare, UTI, PE. Received Levaquin and Vancomycin at OSH following CXR
   that revealed question RLL infiltrate.
   - F/u AM CXR
   - Cont Vanc/Levaquin (day 1 = [**9-10**]) for HCAP
   - f/u BCx, UCx, Sputum Cx
   .
   #Hypercalcemia: elevated to 10.8 last night, corrected 11. AM level
   pending. Differential includes hyperPTH, excessive cit D intake,
   maligancy related, sarcoidosis.
   -F/u AM labs, continue to trend calcium
   -Check Vit D level
   -Consider checking PTH levels if levels remain high
   -Encourage increased PO fluids, may need IVF
   .
   #Elevated LFTs: AST/ALT mildly elevated to 126/41, differential
   includes hypoperfusion [**2-26**] NSTEMI, SLE? INR elevated to 1.4 up from 1.2
   on [**9-3**], AM level pending
   - Continue to trend for now, may need further work-up if remain
   elevated
   .
   # SLE: Pt currently on prednisone taper.
   -          Cont home regimen of prednisone.
   -          Consider stress dosing of steroids if patient is hypotensive
   .
   # HLD: cont home dose pravastatin.
   .
   # HTN: patient demonstrated orthostatics yesterday, responded
   appropriately to fluids as HR is lower and BP higher this AM.
   -continue labetalol
   -recheck orthostatics today
   .
   # Anxiety: continue triazolam, diazepam
   .
   FEN: Cardiac diet
   .
   ACCESS: PIV
   .
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Bowel regimen PRN
   .
   CODE: Full
   COMM: Brother: Cell [**Telephone/Fax (1) 9538**].
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-9-11**] 09:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 946**] [**Name (NI) **],MD
   on:[**2125-9-12**] 19:56 ------

2125-09-13 04:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Echo, carotid US, vein mapping completed
   - CT surgery recs -> can continue antibiotics to treat potential
   infection, call heme consult for eval of splenic calcification (CT vs
   MRI).
   - planned surgery on her originally scheduled date of [**2125-9-26**]
   - SW consult called, as pt concerned about making it through procedure
   and very anxious regarding prognosis.
   Patient denies CP, SOB, dysuria, N/V. She reports about 3 BMs
   yesterday, 1 of which was watery, denies abdominal pain.
   Allergies:
   Plaquenil (Oral) (Hydroxychloroquine Sulfate)
   Rash;
   Ibuprofen
   Seizures;
   Last dose of Antibiotics:
   Levofloxacin - [**2125-9-12**] 10:20 AM
   Vancomycin - [**2125-9-12**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-9-12**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-13**] 04:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 78 (62 - 92) bpm
   BP: 115/62(74) {93/38(55) - 127/82(85)} mmHg
   RR: 18 (12 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,934 mL
                                                                     81 mL
   PO:
                                                                  1,200 mL
                                                                     40 mL
   TF:
   IVF:
                                                                    734 mL
                                                                     41 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    200 mL
   Urine:
                                                                  1,800 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    134 mL
                                                                   -119 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   GENERAL: NAD, somewhat anxious.. Oriented x3. Pleasant Caucasian
   female.  Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 6-7cm.
   CARDIAC: Normal S1, S2. No m/r/g. No S3 or S4.
   LUNGS: No chest wall deformities. Resp were unlabored, no accessory
   muscle use. [**Month (only) **] BS at right > left base, with occ crackles right >
   left..
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
        CBC [**2125-9-13**]: 7.7/10.7/31.7/263
   BMP [**2125-9-13**]: 139/3.8/107/24/20/0.8/108
   [**2125-9-11**]  05:31 PM
                             [**2125-9-11**]  11:22 PM
                             [**2125-9-12**]  05:47 AM
   WBC
   12.8
   10.7
   Hct
   31.6
   30.0
   Plt
   237
   233
   Cr
   1.0
   0.8
   TropT
   1.42
   1.93
   1.74
   Glucose
   171
   122
   Other labs: PT / PTT / INR:13.8/27.9/1.2, CK / CKMB /
   Troponin-T:761/29/1.74, ALT / AST:37/126, Alk Phos / T Bili:96/0.5,
   Differential-Neuts:87.6 %, Lymph:8.8 %, Mono:3.4 %, Eos:0.1 %,
   Albumin:3.4 g/dL, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL CPK:
   373
   Blood Cultures 8/18, Urine culture [**9-12**] Pending
   ECHO [**2125-9-12**]:
   The left atrium and right atrium are normal in cavity size. There is
   mild symmetric left ventricular hypertrophy with normal cavity size.
   There is mild regional left ventricular systolic dysfunction with
   hypokinesis of the distal septum. The remaining segments contract
   normally (LVEF = 50 %). Tissue Doppler imaging suggests an increased
   left ventricular filling pressure (PCWP>18mmHg). Right ventricular
   chamber size and free wall motion are normal. The aortic valve leaflets
   (3) appear structurally normal with good leaflet excursion and no
   aortic stenosis. Trace aortic regurgitation is seen. The mitral valve
   leaflets are mildly thickened. Trivial mitral regurgitation is seen.
   The pulmonary artery systolic pressure could not be determined. There
   is a trivial/physiologic pericardial effusion.
   IMPRESSION: Suboptimal image quality. Mild symmetric left ventricular
   hypertrophy with mild regional systolic dysfunction c/w CAD.
   Compared with the prior study (images reviewed) of [**2125-9-3**], the mild
   septal wall motion abnormality is new.
   CXR [**2125-9-12**]:
   Comparisons with a study of [**9-11**], the patient has taken a much
   better inspiration. Cardiac silhouette is essentially within normal
   limits
   and there is no vascular congestion. Blunting of the left costophrenic
   angle
   could reflect pleural fluid or thickening.
   No evidence of acute focal pneumonia at this time.
   Assessment and Plan
   66 y/o female with CAD s/p MI in [**2108**], now with 3VD on cardiac
   catheterization ([**2125-9-3**]), awaiting 5v CABG on [**2125-9-26**], who was
   transferred from OSH with NSTEMI and SIRS/Sepsis from presumed PNA.
   .
   # CORONARIES: Pt with known 3VD on [**2125-9-3**] cardiac catheterization (90%
   mid vessel RCA stenosis, 80% ostial LAD stenosis, 80% mid LCX
   stenosis). CK-MB peaked to 37 and troponin peak to 1.74, now declining.
   Pt was scheduled for elective CABG on [**9-26**]. At OSH, was loaded with 600
   mg plavix.
   - Cont ASA to 325mg, continue Beta-Blocker, Statin, Isosorbide
   Dinitrate
   - Holding Plavix given potential CABG
   - carotid US and vein mapping completed
   - heme consult today re: CT or MRI to eval for splenic calcification,
   as per CT [**Doctor First Name 213**] recs
   - Hold nitro patch, institute nitro drip if necessary
   - CABG on [**9-26**]
   .
   # PUMP: ETT-MIBI ([**2125-8-15**]) showing EF > 60%. ECG showing 1mm of
   horizontal ST segment depression in leads II, III, AVF and V4-V6.
   Imaging revealed apical hypokinesis, evidence of a reversible
   anteroseptal and an anteroapical perfusion abnormality.  New echo from
   yesterday showing new mild septal wall motion abnormality, with EF 50%.
   - Cont home labetolol
   - hold home nitrate today
   .
   # RHYTHM: Per report was initially sinus tachycardic at OSH,
   potentially [**2-26**] to fever SIRS/sepsis. Currently NSR.
   - Tele while in house.
   .
   # Fever, Leukocytosis: Afebrile overnight.  .WBC down to 7.7 this AM.
   Differential includes PNA (HCAP vs CAP), SLE flare, UTI, PE. Received
   Levaquin and Vancomycin at OSH following CXR that revealed question RLL
   infiltrate.
   - Cont Vanc/Levaquin (day 1 = [**9-10**]) for HCAP
   - f/u BCx, UCx (pending/NGTD)
   .
   #Hypercalcemia: elevated to 10.8 on admission, corrected 11. Now
   resolved, level 8.5.
   -Continue to trend
   -Encourage increased PO fluids
   .
   #Elevated LFTs: AST/ALT mildly elevated to 126/41 on presentation, now
   83/37, differential includes hypoperfusion [**2-26**] NSTEMI, SLE? INR 1.2
   this AM
   - Continue to trend for now, may need further work-up if remain
   elevated
   .
   # SLE: Pt currently on prednisone taper.
   -          Cont home regimen of prednisone.
   -          Consider stress dosing of steroids if patient is hypotensive
   .
   # HLD: cont home dose pravastatin.
   .
   # HTN:. BP well controlled
   -continue metoprolol
   .
   # Anxiety: Patient still having anxiety re: procedure and difficulty
   sleeping.
   -f/u sw recs
   -continue diazepam, ambien PRN
   .
   #[**Name (NI) 9564**]
   PT/OT consult today
   .
   FEN: Cardiac diet
   .
   ACCESS: PIV
   .
   PROPHYLAXIS:
   -DVT ppx with SQ heparin
   -Bowel regimen PRN
   .
   CODE: Full
   COMM: Brother: Cell [**Telephone/Fax (1) 9538**].
   .
   DISPO: To [**Hospital Ward Name 289**] 3 today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-9-11**] 09:10 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 946**] [**Name (NI) **],MD
   on:[**2125-9-14**] 09:37 ------

2125-09-14 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CT Abd ordered but for some reason did not occur.
   - Will call radiology first thing in AM to schedule this exam needed
   for pre-op clearance by CT surgery for CABG on [**9-26**].
   - Patient still anxious over the course of the day.
   - Was explained all results obtained so far and was told that she would
   not be kept out of the loop.  She was relieved after that discussion
   and appreciated our time.
   Allergies:
   Plaquenil (Oral) (Hydroxychloroquine Sulfate)
   Rash;
   Ibuprofen
   Seizures;
   Last dose of Antibiotics:
   Levofloxacin - [**2125-9-13**] 10:00 AM
   Vancomycin - [**2125-9-13**] 07:46 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-9-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-14**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 86 (74 - 87) bpm
   BP: 130/68(83) {100/56(68) - 133/76(100)} mmHg
   RR: 23 (14 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 78.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,840 mL
                                                                     30 mL
   PO:
                                                                  1,000 mL
             TF:
   IVF:
                                                                    840 mL
                                                                     30 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    850 mL
   Urine:
                                                                  1,100 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    740 mL
                                                                   -820 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   GENERAL: NAD, somewhat anxious.. Oriented x3. Pleasant Caucasian
   female.  Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 6-7cm.
   CARDIAC: Normal S1, S2. No m/r/g. No S3 or S4.
   LUNGS: No chest wall deformities. Resp were unlabored, no accessory
   muscle use. [**Month (only) **] BS at right > left base, with occ crackles right >
   left..
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   291 K/uL
   11.2 g/dL
   106 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.9 mEq/L
   19 mg/dL
   108 mEq/L
   139 mEq/L
   33.3 %
   8.1 K/uL
        [image002.jpg]
                             [**2125-9-11**]  05:31 PM
                             [**2125-9-11**]  11:22 PM
                             [**2125-9-12**]  05:47 AM
                             [**2125-9-13**]  04:01 AM
                             [**2125-9-14**]  03:52 AM
   WBC
   12.8
   10.7
   7.7
   8.1
   Hct
   31.6
   30.0
   31.7
   33.3
   Plt
   237
   233
   263
   291
   Cr
   1.0
   0.8
   0.8
   0.8
   TropT
   1.42
   1.93
   1.74
   Glucose
   171
   122
   101
   106
   Other labs: PT / PTT / INR:13.5/30.0/1.2, CK / CKMB /
   Troponin-T:373/17/1.74, ALT / AST:44/63, Alk Phos / T Bili:108/0.5,
   Differential-Neuts:87.6 %, Lymph:8.8 %, Mono:3.4 %, Eos:0.1 %,
   Albumin:3.4 g/dL, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   66 y/o female with CAD s/p MI in [**2108**], now with 3VD on cardiac
   catheterization ([**2125-9-3**]), awaiting 5v CABG on [**2125-9-26**], who was
   transferred from OSH with NSTEMI and SIRS/Sepsis from presumed PNA.
   .
   # CORONARIES: Pt with known 3VD on [**2125-9-3**] cardiac catheterization (90%
   mid vessel RCA stenosis, 80% ostial LAD stenosis, 80% mid LCX
   stenosis). CK-MB peaked to 37 and troponin peak to 1.74, now declining.
   Pt was scheduled for elective CABG on [**9-26**]. At OSH, was loaded with 600
   mg plavix.
   - Cont ASA to 325mg, continue Beta-Blocke, statin, Isosorbide Dinitrate
   - increase statin dose to 80mg daily
   - Holding Plavix given potential CABG
   - carotid US and vein mapping completed
   - heme consult today re: splenic calcification, as per CT [**Doctor First Name 213**] recs (to
   be done after CT abdomen)
   - will re-order CT abdomen study which was not done yesterday
   - start ACE-I after CT abdomen
   - Hold nitro patch, institute nitro drip if necessary
   - CABG on [**9-26**]
   .
   # PUMP: ETT-MIBI ([**2125-8-15**]) showing EF > 60%. ECG showing 1mm of
   horizontal ST segment depression in leads II, III, AVF and V4-V6.
   Imaging revealed apical hypokinesis, evidence of a reversible
   anteroseptal and an anteroapical perfusion abnormality.  New echo from
   yesterday showing new mild septal wall motion abnormality, with EF 50%.
   - Cont home labetolol
   .
   # RHYTHM: Per report was initially sinus tachycardic at OSH,
   potentially [**2-26**] to fever SIRS/sepsis. Currently NSR.
   - Tele while in house.
   .
   # Fever, Leukocytosis: Afebrile overnight.  WBC stable at 8.1.
   Differential includes PNA (HCAP vs CAP), SLE flare, UTI, PE. Received
   Levaquin and Vancomycin at OSH following CXR that revealed question RLL
   infiltrate.
   - Cont Vanc/Levaquin (day 1 = [**9-10**]) for HCAP.  Day 5
   - f/u BCx, UCx (pending/NGTD)
   .
   #Hypercalcemia: Now resolved.
   -Continue to trend
   -Encourage increased PO fluids
   .
   #Elevated LFTs: AST/ALT mildly elevated to 126/41 on presentation, now
   83/37, differential includes hypoperfusion [**2-26**] NSTEMI, SLE? INR 1.2
   this AM
   - Continue to trend for now, may need further work-up if remain
   elevated
   .
   # SLE: Pt currently on prednisone taper.
   -          Cont home regimen of prednisone.
   -          Consider stress dosing of steroids if patient is hypotensive
   .
   # HLD: increase dose of pravastatin to 80mg daily
   .
   # HTN:. BP well controlled
   -continue metoprolol
   .
   # Anxiety: Patient still having anxiety re: procedure and difficulty
   sleeping.
   -f/u sw recs
   -continue diazepam, ambien PRN
   - asking to see priest today; will initiate
   .
   #[**Name (NI) 9564**]
   PT/OT consult today
   .
   FEN: Cardiac diet
   .
   ACCESS: PIV
   .
   PROPHYLAXIS:
   -DVT ppx with SQ heparin
   -Bowel regimen PRN
   .
   CODE: Full
   COMM: Brother: Cell [**Telephone/Fax (1) 9538**].
   .
   DISPO: Call out today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-9-11**] 09:10 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition:  To [**Hospital Ward Name **] 3 daoy
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 946**] [**Name (NI) **],MD
   on:[**2125-9-14**] 09:39 ------